* source ORCAD
V_V1         N00121 0 9V
R_R1         N00121 N00099  1k TC=0,0 
R_R2         N00106 N00099  4.7k TC=0,0 
R_R3         0 N00106  3.3k TC=0,0 
