* source ORCAD2
X_U1A         N00424 N00453 $G_DPWR $G_DGND 7414 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N00453 N00469 $G_DPWR $G_DGND 7414 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N00469 RESET_BAR $D_HI $D_HI OUTPUT OUTPUT_BAR $G_DPWR $G_DGND
+  74107 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         RESET N00424 $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         RESET RESET_BAR $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R1         N00453 N00424  750 TC=0,0 
C_C1         N00424 N00469  400pF  TC=0,0 
U_DSTM1         STIM(1,1)
+ $G_DPWR $G_DGND
+ RESET 
+ IO_STM
+ IO_LEVEL=0
+  0s 1  
+ 100ns 0  
