* source ORCAD5WEEK
V_V1         N00148 0 DC 10 AC 0 
R_R1         N00148 N00120  1k TC=0,0 
R_R2         0 N00120  1k TC=0,0 
C_C1         0 N00120  1n  TC=0,0 
