* source ORCAD6WEEK
R_R1         N00218 N00196  1k TC=0,0 
R_R2         N00231 N00218  1k TC=0,0 
R_R3         0 N00231  1k TC=0,0 
R_R4         N00326 N00231  1k TC=0,0 
R_R5         N00603 N00196  1k TC=0,0 
C_C2         0 N00231  1n  TC=0,0 
V_V1         N00326 0  
+PULSE 0 1 0.1u 0.01u 
V_V2         V+ 0 15V
V_V3         V- 0 -15V
X_U3         N00218 0 V+ V- N00196 LF411
C_C3         0 N00603  {Cvar}  TC=0,0 
.PARAM  cvar=1n
