* source ORCAD10WEEK2
V_V1         N00233 0  
+SIN 0 141 60Hz 0 0 0
R_R1         0 N00241  100 TC=0,0 
C_C1         0 N00241  1m  TC=0,0 
D_D1         N00233 N00241 Dbreak 
