* source ORCAD11WEEK1
V_V1         N00356 0  
+SIN 0 12 60 0 0 0
V_V2         0 N00370  
+SIN 0 12V 60 0 0 0
D_D1         0 N00251 Dbreak 
D_D2         0 N00255 Dbreak 
D_D3         N00251 N00227 Dbreak 
D_D4         N00255 N00227 Dbreak 
R_R1         N00356 N00251  1 TC=0,0 
R_R2         N00370 N00255  1 TC=0,0 
C_C1         0 N00227  1m  TC=0,0 
