* source ORCAD11WEEK2
V_V1         N00168 0  
+SIN 0 12 60 0 0 0
D_D1         0 N00175 Dbreak 
D_D2         N00175 N00219 Dbreak 
C_C1         N00168 N00175  1m  TC=0,0 
C_C2         0 N00219  1m  TC=0,0 
