* source ORCAD11WEEK6
Q_Q1         N01791 N01671 N01648 Q2N2222
V_V2         N01656 0 12V
R_R1         N01791 N01656  3.3k TC=0,0 
R_R2         N01671 N01656  68k TC=0,0 
R_R3         0 N01671  24k TC=0,0 
R_R4         0 N01648  2k TC=0,0 
