* source ORCAD12WEEK1
V_V1         N00233 0  
+SIN 0 10m 1k 0 0 0
C_C1         N00233 N00214  1n  TC=0,0 
R_R1         N00214 N00180  390k TC=0,0 
R_R2         N00221 N00180  1k TC=0,0 
Q_Q1         N00221 N00214 0 Q2N2222
V_V2         N00180 0 20
