* source ORCAD12WEEK2
V_V2         N00415 0 5
R_R2         N00463 N00415  1k TC=0,0 
Q_Q1         N00463 N00529 0 Q2N2222
R_R3         N00521 N00529  10k TC=0,0 
V_V1         N00521 0 0Vdc
