* source ORCAD12WEEK3
V_V2         N00412 0 12
Q_Q1         N00412 N01004 N01042 Q2N2222
V_V1         N00518 0  
+SIN 0 500m 10k 0 0 0
C_C1         N00518 N01004  10u  TC=0,0 
C_C2         N01042 N01131  10u  TC=0,0 
R_R3         N01004 N00412  100k TC=0,0 
R_R4         0 N01004  22k TC=0,0 
R_R5         0 N01042  2k TC=0,0 
R_R6         0 N01131  10mega TC=0,0 
