* source ORCAD12WEEK4
R_R2         N00597 N00549  3.6k TC=0,0 
V_V1         N00655 0  
+SIN 0 1m 1k 0 0 0
C_C1         N01037 N00663  10u  TC=0,0 
V_V2         N00549 0 20
R_R1         0 N00663  1mega TC=0,0 
R_R3         N00655 N01037  47k TC=0,0 
R_R4         0 N008540  500 TC=0,0 
R_R5         0 N00911  10k TC=0,0 
C_C2         N00597 N00911  10u  TC=0,0 
J_J1         N00597 N00663 N008540 J2N3819 
