* source ORCAD13WEEK11
U_D         STIM(1,0) $G_DPWR $G_DGND N00463 IO_STM STIMULUS=D
X_U1A         N00463 N00467 N00403 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N00467 N02473 N00410 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1C         N00403 -Q Q $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1D         Q N00410 -Q $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_CP         STIM(1,1) $G_DPWR $G_DGND N00467 IO_STM IO_LEVEL=0 
+ 0 1
+ +0.1u 0
+REPEAT FOREVER
+ +0.1u 1
+  +0.1u 0
+ ENDREPEAT
X_U2A         N00463 N02473 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
