* source ORCAD13WEEK13
X_U1A         N02037 N00320 N00275 N03960 N03956 A N02333 $G_DPWR $G_DGND 7476
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_CLR         STIM(1,0) $G_DPWR $G_DGND N00275 IO_STM STIMULUS=CLR
U_CP         STIM(1,1) $G_DPWR $G_DGND N02037 IO_STM IO_LEVEL=0 
+ 0 0
+ +0.1u 1
+REPEAT FOREVER
+ +0.1u 0
+  +0.1u 1
+ ENDREPEAT
V_V1         N00320 0 5V
X_U1B         N02037 N00320 N00275 A N02333 B N02423 $G_DPWR $G_DGND 7476
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N02037 N00320 N00275 B N02423 C N03827 $G_DPWR $G_DGND 7476
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         N02037 N00320 N00275 C N03827 D M_UN0001 $G_DPWR $G_DGND 7476
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N03960 N03956 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_INPUT         STIM(1,1)
+ $G_DPWR $G_DGND
+ N03960 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.2u 1  
+ 0.4u 0  
+ 0.6u 1 
+ 0.8u 1  
+ 1.0u 1  
+ 1.2u 0  
+ 1.4u 1  
