* source ORCAD13WEEK3
U_A1         STIM(1,0) $G_DPWR $G_DGND N00367 IO_STM STIMULUS=A
X_U3A         N00367 N00375 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3B         N00375 F $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
