* source ORCAD13WEEK5
X_U1B         N01999 N02003 N01650 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4B         N01995 N02007 N01742 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_B1         STIM(1,0) $G_DPWR $G_DGND N02003 IO_STM STIMULUS=B
U_A1         STIM(1,0) $G_DPWR $G_DGND N01995 IO_STM STIMULUS=A
X_U2A         N01650 N01742 F $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5A         N01995 N01999 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5B         N02003 N02007 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
