* source ORCAD13WEEK8
U_A         STIM(1,0) $G_DPWR $G_DGND N00338 IO_STM STIMULUS=A
U_B         STIM(1,0) $G_DPWR $G_DGND N00342 IO_STM STIMULUS=B
X_U1A         N00338 N00423 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N00342 N00435 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N00423 N00435 00 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         N00338 N00435 01 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2C         N00423 N00342 10 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2D         N00338 N00342 11 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
