* source ORCAD14WEEK1
R_R1         N00149 N00142  1k TC=0,0 
R_R2         0 N00142  2k TC=0,0 
R_R3         0 N00142  4k TC=0,0 
V_V1         N00149 0 10V
