* source ORCAD14WEEK10
D_D1         N00251 N00266 D1N4148 
D_D2         N00303 N00266 D1N4148 
D_D3         0 N00251 D1N4148 
D_D4         0 N00303 D1N4148 
C_C1         N00172 N00266  680u  TC=0,0 
C_C2         0 N00172  680u  TC=0,0 
R_R1         N00172 N00266  1k TC=0,0 
R_R2         0 N00172  1k TC=0,0 
V_V1         N00251 N00303  
+SIN 0 110 60 0 0 0
