* source ORCAD14WEEK3
X_TX1    N00129 0 N00105 0 SCHEMATIC1_TX1 
R_R1         N00179 N00129  1 TC=0,0 
R_R2         0 N00105  100k TC=0,0 
V_V1         N00179 0  
+SIN 0 10 200 0 0 0

.subckt SCHEMATIC1_TX1 1 2 3 4  
L1_TX1         1 2 1000
L2_TX1         3 4 2000
K_TX1         L1_TX1 L2_TX1 0.5 K3019PL_3C8
.ends SCHEMATIC1_TX1
