* source ORCAD14WEEK7
V_V1         N00140 N00147 0Vdc
R_R1         N00140 N00133  1k TC=0,0 
R_R2         0 N00126  1k TC=0,0 
X_X1         N00133 N00126 N00147 2N5444
