* source ORCAD14WEEK8
X_U1         N00567 N00586 V+ V- N00831 uA741
R_R1         N00230 N00586  1k TC=0,0 
R_R2         N00835 N01656  1k TC=0,0 
V_V2         V+ 0 15V
V_V3         V- 0 -15V
R_R3         0 N00567  680 TC=0,0 
V_V4         N00230 0  
+SIN 0 2 1k 0 0 0
D_D1         N00586 N00831 D1N4148 
R_R4         N00586 N00835  2k TC=0,0 
D_D2         N00835 N00831 D1N4148 
X_U2         N01845 N01656 V+ V- N01786 uA741
R_R5         N01656 N01786  1k TC=0,0 
R_R6         N00586 N01656  1k TC=0,0 
R_R7         0 N01786  1k TC=0,0 
R_R8         0 N01845  470 TC=0,0 
