* source ORCAD14WEEK9
V_V1         N01127 0  
+SIN 0 70 60 0 0 0
D_D1         N01127 N01120 D1N4148 
R_R1         N01116 N01120  1k TC=0,0 
L_L1         0 N01116  10uH  
