* source ORCAD4WEEK1
V_V1         N00163 0 10V
V_V2         N00197 0 10V
R_R1         N00163 N00170  450 TC=0,0 
R_R2         N00183 N00170  330 TC=0,0 
R_R3         0 N00183  220 TC=0,0 
R_R4         N00197 N00207  500 TC=0,0 
R_R5         0 N00207  500 TC=0,0 
R_R6         0 N00207  750 TC=0,0 
