* source ORCAD4WEEK3
R_R1         0 N00104  1k TC=0,0 
V_V2         N00113 0  AC 0
+SIN 0 5 60Hz 0 0 0
D_D1         N00113 N00104 D1N4148_1 
V_V3         N00911 0  AC 0
+SIN 0 5 60Hz 0 0 0
D_D2         N00911 N00883 D1N4148_1 
D_D3         N00896 N00911 D1N4148_1 
D_D4         N00896 0 D1N4148_1 
D_D5         0 N00883 D1N4148_1 
R_R2         N00896 N00883  1k TC=0,0 
V_V4         N01760 0  
+PULSE -0.5V 0.5V 0 1.25m 1.25m 0 2.5m
X_U1         0 N01721 V+ V- N01738 LM741
R_R3         N01721 N01738  22k TC=0,0 
R_R4         N01760 N01756  2.2k TC=0,0 
C_C1         N01756 N01721  4.7nF  TC=0,0 
V_V5         V+ 0 15V
V_V6         0 V- 15V
