* source ORCAD4WEEK4
X_U1         N00437 N00444 V+ V- N00381 LM741
R_R1         N00418 N00437  1k TC=0,0 
R_R2         0 N00444  22k TC=0,0 
R_R3         0 N00437  22k TC=0,0 
R_R4         N00444 N00381  22k TC=0,0 
C_C1         N00444 N00381  1n  TC=0,0 
V_V1         N00418 0  AC 0
+SIN 0 5 1k 0 0 0
V_V2         V+ 0 15V
V_V3         0 V- 15V
