* source ORCAD4WEEK5
X_U1         0 N00392 V+ V- N00245 LM741
R_R1         N00497 N00392  1k TC=0,0 
R_R2         N00392 N00331  2.2k TC=0,0 
R_R3         N00331 N00325  4.7k TC=0,0 
R_R4         N00325 N00245  8.2k TC=0,0 
C_C1         N00392 N00245  4.7n  TC=0,0 
D_D3         N00245 N00325 D1N4148_1 
C_C2         N00501 N00497  1u  TC=0,0 
V_V1         N00501 0  AC 0
+SIN 0 1.5 1k 0 0 0
V_V2         V+ 0 15V
V_V3         0 V- 15V
