* source ORCAD6WEEK1
V_V1         N00385 N00506 DC 0  
V_V2         N00385 N00499 DC 0  
V_V3         N00385 N00495 DC 0  
V_V4         N00385 N00491 DC 0  
V_V5         N00385 0  AC 1V 
R_R1         N00472 N00506  50 TC=0,0 
R_R2         N00476 N00499  50 TC=0,0 
R_R3         N00480 N00495  50 TC=0,0 
R_R4         N00487 N00491  50 TC=0,0 
L_L1         N00468 N00472  10m  
L_L2         N00464 N00476  15m  
L_L3         N00460 N00480  20m  
L_L4         N00456 N00487  25m  
C_C1         0 N00468  1u  TC=0,0 
C_C2         0 N00464  1u  TC=0,0 
C_C3         0 N00460  1u  TC=0,0 
C_C4         0 N00456  1u  TC=0,0 
