* source ORCAD6WEEK2
V_V1         N00152 0  AC 100V 
R_R1         N00152 N00120  200 TC=0,0 
R_R2         0 N00120  400 TC=0,0 
C_C1         0 N00120  10u  TC=0,0 
