* source ORCAD6WEEK3
V_V1         N00211 0 DC 1V AC 0 
X_U1         N00218 N00618 V+ V- N00180 uA741
R_R1         N00211 N00218  10k TC=0,0 
R_R2         0 N00618  10k TC=0,0 
R_R3         N00218 N00180  100k TC=0,0 
R_R4         0 N00180  1k TC=0,0 
V_V2         V+ 0 15
V_V3         V- 0 -15
