* source ORCAD7WEEK2
V_V1         N00210 0  
+PULSE 0 30 2777.8u 1u 1u 100u 16666.7u
V_V2         N00191 0  AC 0
+SIN 0 170V 60Hz 0 0 0
X_X1         N00218 N00214 0 2N1595
R_R1         N00218 N00191  2.5 TC=0,0 
R_R2         N00210 N00214  300 TC=0,0 
