* source ORCAD8WEEK1
V_V1         N00185 0  
+PULSE 0 1 1m 0.1n 0.1n 3ms 5ms
R_R1         N00185 0  1 TC=0,0 
R_R2         N00185 N00202  1 TC=0,0 
R_R3         N00185 N00198  1 TC=0,0 
L_L1         N00202 0  220uH  
C_C1         N00198 0  220u  TC=0,0 
