* source ORCAD8WEEK3
V_V1         N00197 0  
+PULSE 0 1 0.5m 0.1n 0.1n 1m 2m
C_C1         N00197 N00157  0.01u  TC=0,0 
C_C2         0 N00157  {cval}  TC=0,0 
R_R1         0 N00157  10mega TC=0,0 
.PARAM  cval=0.01uf
