* source ORCAD8WEEK4
V_V1         N00199 0  
+PULSE 0 1 0.5m 0.1n 0.1n 1m 2m
R_R1         N00199 N00159  1k TC=0,0 
C_C1         0 N00159  {cval}  TC=0,0 
R_R2         0 N00159  10mega TC=0,0 
.PARAM  cval=0.01u
