* source ORCAD9WEEK1
V_V1         N00158 0  
+PULSE 0 10 0.5m 0.1n 0.1n 1m 2m
L_L1         N00158 N00165  100mH  
R_R1         0 N00165  {rval} TC=0,0 
.PARAM  rval=1k
