* source ORCAD9WEEK2
V_V1         N00169 0  
+PULSE 0 10 0.5m 0.1n 0.1n 1m 2m
C_C1         N00169 N00158  0.01uF  TC=0,0 
R_R1         0 N00158  {rval} TC=0,0 
.PARAM  rval=1k
