* source ORCAD9WEEK3
V_V1         N00274 0  
+PULSE 0 10 0.5m 0.1n 0.1n 1m 2m
L_L1         0 N00282  {lval}  
R_R1         N00274 N00282  100 TC=0,0 
.PARAM  lval=1mh
