* source ORCAD9WEEK4
V_V1         N00587 0  
+PULSE 0 10 0.5m 0.1n 0.1n 1m 2m
L_L1         0 N00595  {lval}  
C_C1         N00587 N00595  0.01u  TC=0,0 
.PARAM  lval=1mh
