* source ORCAD9WEEK5
V_V1         N00835 0  
+PULSE 0 10 0.5m 0.1n 0.1n 1m 2m
L_L1         N00835 N00843  10m  
C_C1         0 N00843  {cval}  TC=0,0 
.PARAM  cval=0.01u
