* source ORCAD11WEEK1_2
R_R1         N00695 N00703  1 TC=0,0 
V_V2         0 N00939  
+SIN 0 12V 60 0 0 0
D_D4         N00927 N00791 Dbreak 
V_V1         N00695 0  
+SIN 0 12 60 0 0 0
D_D3         N00703 N00791 Dbreak 
R_R2         N00939 N00927  1 TC=0,0 
R_R3         0 N00791  1k TC=0,0 
