* source OSH1704082
R_R1         N00187 N00201  1 TC=0,0 
L_L1         N00201 N00208  1mH  
C_C1         0 N00208  1000uF  TC=0,0 
V_V2         N00187 0  AC 0
+SIN 0 100 60 0 0 0
