* source TEST_11
V_V1         N00297 0 5Vdc
R_R4         N00297 N00328  1k TC=0,0 
R_R2         0 N00328  666 TC=0,0 
R_R1         0 N00324  100 TC=0,0 
R_R3         N00324 N00297  150 TC=0,0 
