* source TEST_21
R_R2         0 N01295  5 TC=0,0 
R_R3         N01505 N01009  6 TC=0,0 
R_R1         0 N01295  5 TC=0,0 
V_V1         N01009 0 10Vdc
R_R4         N01009 N01505  4 TC=0,0 
R_R6         N01295 N01505  0.000001 TC=0,0 
